US04311703
A suspension of 5.0 g of 3-(α-phenyl-2-tolyl)-3-pyrrolidinol hydrochloride, Example 14, in 40 ml of methanol is diluted with water until a solution forms. The solution is treated with an excess of a 5% sodium hydroxide solution and then the methanol removed on a rotary evaporator leaving a suspension. The suspension is diluted with 50 ml of water and extracted successively with a 100 ml and a 20 ml portion of chloroform. The combined chloroform extracts are washed once with 50 ml of a 5% sodium hydroxide solution and twice with 50 ml portions of water and dried and the chloroform removed. The residue is subjected to azeotropic distillation with benzene and then dried in vacuo at 40° C. for 2 hours before being suspended in 30 ml of warmed chloroform containing 2.2 g of triethylamine. To this suspension is added dropwise 2.60 g of benzoyl chloride. After total addition, the resulting solution is stirred for 2 hours and then permitted to stand for 48 hours. The solution is diluted with 30 ml of chloroform, washed successively with a 50 ml portion of water and similar amount of a 5% sodium hydroxide and dried and the solvent removed leaving a tacky foam. The foam is dissolved in 60 ml of ether (warming may be required), and the solution filtered through glass wool. A precipitate forms which is collected by suction filtration and dried in vacuo at ambient temperature leaving a colorless solid, mp 113°-116° C. of 1-benzoyl-3-(α-phenyl-2-tolyl)-3-pyrrolidinol.

reactant | 3-(α-phenyl-2-tolyl)-3-pyrrolidinol hydrochloride | 5.0 g | Cl.C1(=CC=CC=C1)CC1=C(C=CC=C1)C1(CNCC1)O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 1-benzoyl-3-(α-phenyl-2-tolyl)-3-pyrrolidinol | C(C1=CC=CC=C1)(=O)N1CC(CC1)(O)C1=C(C=CC=C1)CC1=CC=CC=C1 | C24H23NO2
